US05149717
c) 3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propyl-triphenylphosphonium bromide
A solution of 27 g of 3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propyl bromide in 50 ml of toluene is heated at reflux with 21.85 g of triphenylphosphine for 20 hours. The resulting suspension is cooled to room temperature; 200 ml of ether are added and the mixture is stirred for 1 hour. The colourless precipitate is filtered off with suction, washed with ether and dried. The title compound has a melting point of 211°-212°.

reactant | 3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propyl bromide | 27 g | C(C)(=O)C1=C(C(=C(OCCCBr)C=C1)CCC)O | C14H19BrO3
reactant | triphenylphosphine | 21.85 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ether | 200 ml | CCOCC | C4H10O
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(4-acetyl-3-hydroxy-2-propylphenoxy)-propyl-triphenylphosphonium bromide | [Br-].C(C)(=O)C1=C(C(=C(OCCC[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)CCC)O | InChI=1S/C32H33O3P.BrH/c1-3-14-30-31(22-21-29(25(2)33)32(30)34)35-23-13-24-36(26-15-7-4-8-16-26,27-17-9-5-10-18-27)28-19-11-6-12-20-28;/h4-12,15-22H,3,13-14,23-24H2,1-2H3;1H
